US04331664
2-(2-Propynyl)oxyimino-2-(2-amino-1,3-thiazol-4-yl)acetic acid (syn isomer) (1.2 g) was suspended in tetrahydrofuran (15 ml). Phosphorus oxychloride (1.0 g) was added thereto at 0° to 5° C. and the mixture was stirred for 20 minutes at the same temperature. Trimethylsilylacetamide (0.5 g) was added thereto, the mixture was stirred for 20 minutes at the same temperature, phosphorus oxychloride (1.0 g) was added thereto, the resulting mixture was stirred for 20 minutes at 0° to 5° C., dimethylformamide (0.5 g) was added thereto and the resulting mixture was stirred for 1 hour at the same temperature. The resulting solution was added dropwise at -5° to 5° C. and pH 6.5 to 8.5 to a solution, which was prepared by adding acetone (10 ml) and tetrahydrofuran (10 ml) to a solution of 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (1.9 g) in a mixture of sodium bicarbonate (0.4 g) and water (15 ml). The resulting mixture was stirred for 2 hours under ice-cooling keeping the pH of the mixture at 7.0 to 8.0 and then adjusted to pH 7.5. An insoluble material was filtered off and the filtrate was washed with ethyl acetate. The aqueous layer was adjusted to pH 6.0 and organic solvent in the aqueous layer was distilled off under reduced pressure. The remaining aqueous layer was adjusted to pH 4.0 and an insoluble material was filtered off. The filtrate was adjusted to pH 3.0 and precipitates were collected by filtration and dried to give 7-[2-(2-propynyl)oxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer) (2.2 g).

reactant | 2-(2-Propynyl)oxyimino-2-(2-amino-1,3-thiazol-4-yl)acetic acid | 1.2 g | C(C#C)ON=C(C(=O)O)C=1N=C(SC1)N | C8H7N3O3S
reactant | Phosphorus oxychloride | 1.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Trimethylsilylacetamide | 0.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | phosphorus oxychloride | 1.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.9 g | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | 0.4 g | C([O-])(O)=O.[Na+]
solvent | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 0.5 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-propynyl)oxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 2.2 g | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C=1N=C(SC1)N | C17H16N6O7S2
